US09079916B2
Preparation of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide
1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid (2.76 g, 13.4 mmol) was placed in an oven-dried flask under nitrogen. Thionyl chloride (3.0 mL) and N,N-dimethylformamide (0.3 mL) were added and the solution was allowed to stir for 10 minutes at room temperature. The excess thionyl chloride was removed under vacuum and the resulting solid was suspended in 10 mL of anhydrous dichloromethane. This solution was then slowly added to a solution of 5-bromo-6-methylpyridin-3-amine (2.50 g, 13.4 mmol) in 10 mL of anhydrous dichloromethane containing triethylamine (5.64 mL, 40.2 mmol). The resulting mixture was allowed to stir for 10 minutes at room temperature. The crude product was then washed three times with a saturated aqueous solution of sodium bicarbonate, followed by two washes with a saturated aqueous solution of sodium chloride. The organic layer was dried over sodium sulfate, evaporated to dryness, and the resulting yellow powder (3.62 g, 9.65 mmol, 72.0%) was used without further purification. ESI-MS m/z calc. 374.0. Found; 375.1 (M+1) Retention time 2.30 minutes. 1H NMR (400 MHz, CD3CN) δ 8.38 (d, J=2.2 Hz, 1H), 8.14 (d, J=2.2 Hz, 1H), 7.80-7.60 (m, 1H), 7.08-6.95 (s, 2H), 6.89 (dd, J=1.2, 7.3 Hz, 1H), 6.01 (s, 2H), 2.54 (s, 3H), 1.59-1.50 (m, 2H), 1.19-1.09 (m, 2H).

reactant | 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid | 13.4 mmol, 2.76 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | Thionyl chloride | 3.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-bromo-6-methylpyridin-3-amine | 13.4 mmol, 2.50 g | BrC=1C=C(C=NC1C)N | C6H7BrN2
reactant | triethylamine | 40.2 mmol, 5.64 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)Br)C | C17H15BrN2O3
